US07977477B2
A mixture of 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid (75 mg, 0.25 mmol), 4-morpholin-4-ylmethyl-benzene-1,2-diamine (52 mg, 0.25 mmol), EDC (58 mg, 0.3 mmol) and HOBt (41 mg, 0.3 mmol) in DMF (4 ml) was stirred at ambient temperature for 48 hours. The mixture was partitioned between EtOAc and saturated aqueous NaHCO3 and the organic portion washed with saturated aqueous NH4Cl, dried (MgSO4) and reduced in vacuo. The residue was taken up in AcOH and heated at 100° C. for 14 hours. cooled to ambient temperature and reduced in vacuo. The residue was purified via flash column chromatography eluting with CH2Cl2-MeOH (20:1-10:1) to give 2,6-dichloro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (30 mg) as a pink solid. (LC/MS: Rt 2.12, [M+H]+ 471.14).

reactant | 4-(2,6-dichloro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 0.25 mmol, 75 mg | ClC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)Cl | C11H7Cl2N3O3
reactant | 4-morpholin-4-ylmethyl-benzene-1,2-diamine | 0.25 mmol, 52 mg | N1(CCOCC1)CC=1C=C(C(=CC1)N)N | C11H17N3O
reactant | EDC | 0.3 mmol, 58 mg
reactant | HOBt | 0.3 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2,6-dichloro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 30 mg | ClC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C(=CC=C1)Cl | C22H20Cl2N6O2
